US04435406
22.0 g of 2,2-dimethyl-5-acetamino-6-nitro-1,3-benzodioxole were boiled under reflux for 1 hour in 1.1 l of methanol containing 2.2 g of sodium methoxide (10% by weight). After evaporating the solution, the residue was dissolved in methylene chloride, filtered first through Decalit and then through silicon dioxide evaporated and crystallized from isopropanol. There were obtained 17.0 g (92.8% of theory) of 2,2-dimethyl-5-amino-6-nitro-1,3-benzodioxole of melting point 128°-129° C.

reactant | 2,2-dimethyl-5-acetamino-6-nitro-1,3-benzodioxole | 22.0 g | CC1(OC2=C(O1)C=C(C(=C2)NC(=O)C)[N+](=O)[O-])C | C11H12N2O5
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 1.1 l, 2.2 g | CO | CH4O
product | 2,2-dimethyl-5-amino-6-nitro-1,3-benzodioxole | 17.0 g, 92.8% | CC1(OC2=C(O1)C=C(C(=C2)N)[N+](=O)[O-])C | C9H10N2O4
